US09260410B2
To a stirred solution of 2-chloro-4-fluoropyridine (1.26 g, 9.58 mmol) and 4-amino-1-naphthol hydrochloride (750 mg, 3.83 mmol) in NMP (40 mL) at −20° C. was added potassium tert-butoxide (1.29 g, 11.50 mmol) and the reaction mixture then warmed to RT for 2.5 hr. The mixture was diluted with water (100 mL) and extracted with EtOAc (100 mL and 2×80 mL) and the combined organic extracts were washed with brine (150 mL), dried and evaporated in vacuo. The crude product was subjected to SCX capture and release and the volatiles were removed in vacuo to give 4-(2-chloropyridin-4-yloxy)naphthalen-1-amine as a brown solid (1.02 g, 92%): m/z 271 (M+H)+ (ES+).

reactant | 2-chloro-4-fluoropyridine | 9.58 mmol, 1.26 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | 4-amino-1-naphthol hydrochloride | 3.83 mmol, 750 mg | Cl.NC1=CC=C(C2=CC=CC=C12)O
reactant | potassium tert-butoxide | 11.50 mmol, 1.29 g | CC(C)([O-])C.[K+]
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | 4-(2-chloropyridin-4-yloxy)naphthalen-1-amine | 1.02 g, 92% | ClC1=NC=CC(=C1)OC1=CC=C(C2=CC=CC=C12)N | C15H11ClN2O
